US03975384
4,6-Dihydroxy-5-nitro-2-thiomorpholino-pyrimidine was prepared in analogous manner from 4,6-dihydroxy-2-methylthio-5-nitro-pyrimidine and thiomorpholine. M.p. 220°-223°C.

reactant | 4,6-dihydroxy-2-methylthio-5-nitro-pyrimidine | OC1=NC(=NC(=C1[N+](=O)[O-])O)SC | C5H5N3O4S
reactant | thiomorpholine | N1CCSCC1 | C4H9NS
product | 4,6-Dihydroxy-5-nitro-2-thiomorpholino-pyrimidine | OC1=NC(=NC(=C1[N+](=O)[O-])O)N1CCSCC1 | C8H10N4O4S
